US06897231B2
B. 3-{3-[(1E)-2-(4-Methylphenyl)vinyl]-1H-indazol-5-yl}-1H-1,2,4-triazole
Hydrolysis was performed by stirring 2-{3-[(1E)-2-(4-methylphenyl)vinyl]-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran (0.269 g, 0.42 mmol) in 4 mL of 4.0 N commercial solution of HCl in dioxane and 2 mL of 6.0 N aqueous HCl, at room temperature for 6.5 hours. The title compound was purified by column chromatography (5% MeOH in dichloromethane) and isolated as a 97:3 ratio of 2 isomers (0.103 g, 81% yield): 1H NMR (DMSO-d6) δ 8.8 (s, 1H), 8.6 (br s, 1H), 8.1 (d, 1H), 7.6 (m, 3H), 7.5 (d, 2H), 7.0 (d, 2H), 2.34 (s, 3H); ES-MS (m/z) 302 [M+1]+.

reactant | 2-{3-[(1E)-2-(4-methylphenyl)vinyl]-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran | 0.42 mmol, 0.269 g | CC1=CC=C(C=C1)/C=C/C1(NNC2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)C1OCCCC1 | C43H39N5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 6.0 N, 2 mL | Cl | ClH
product | 3-{3-[(1E)-2-(4-Methylphenyl)vinyl]-1H-indazol-5-yl}-1H-1,2,4-triazole | 81% yield | CC1=CC=C(C=C1)/C=C/C1=NNC2=CC=C(C=C12)C1=NNC=N1 | C18H15N5
